US06589970B2
Step 2: 2-Benzyl-3-(1-bromo-6-{[(3-butyl-benzofuran-2-carbonyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-propionic acid.
A mixture of 1 N NaOH (2.5 mL, 2.5 mmol) and 2-benzyl-3-(1-bromo-6-{[(3-butyl-benzofuran-2-carbonyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-propionic acid methyl ester (769 mg, 1.22 mmol), prepared in the previous step, in 30 mL of methanol plus 2 mL of water was stirred under nitrogen at room temperature for 6 h. By TLC starting material remained. An additional 2.5 mL (2.5 mmol) of 1 N NaOH was added and the stirring continued at room temperature overnight. 1 N HCl (5.1 mL, 5.1 mmol) was added and the reaction concentrated under reduced pressure to remove the methanol. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (318 mg, 42%) as a white solid, mp 64-68° C.

reactant | NaOH | 2.5 mmol, 1 N, 2.5 mL | [OH-].[Na+]
reactant | 2-benzyl-3-(1-bromo-6-{[(3-butyl-benzofuran-2-carbonyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-propionic acid methyl ester | 1.22 mmol, 769 mg | COC(C(COC1=C(C2=CC=C(C=C2C=C1)CN(C)C(=O)C=1OC2=C(C1CCCC)C=CC=C2)Br)CC2=CC=CC=C2)=O | C36H36BrNO5
reactant | water | 2 mL | O | H2O
reactant | NaOH | 2.5 mmol, 1 N, 2.5 mL | [OH-].[Na+]
reactant | HCl | 5.1 mmol, 1 N, 5.1 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 2-Benzyl-3-(1-bromo-6-{[(3-butyl-benzofuran-2-carbonyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-propionic acid | 318 mg, 42% | C(C1=CC=CC=C1)C(C(=O)O)COC1=C(C2=CC=C(C=C2C=C1)CN(C)C(=O)C=1OC2=C(C1CCCC)C=CC=C2)Br | C35H34BrNO5
